US05703187
(Benzylamino)dimethyl(tetramethylcyclopentadienyl)silane
To a solution of 1.000 g (4.651 mmol) (chloro)(dimethyl)(tetramethylcyclopentadienyl)silane in 70 mL ether was slowly added 0.526 g , (4.651 mmol) lithium benzylamide. The reaction mixture was stirred overnight, then the solvent was removed, the residue was extracted with pentane and filtered. The pentane was removed under reduced pressure to give the product as a pale yellow oil. The yield was 1.234 g (93.3%). Mass spec. m/e 285 (18%). 1H NMR (C6D6) δ 7.0-7.24 (m, 5H), 3.71 (d, 2H), 2.73 (br s, 1H), 1.88 (s, 6H), 1.76 (s, 6H), 0.43 (br t, 1H), -0.07 (s, 6H). 13C NMR (C6 D6) δ 144.5, 135.7, 132.0, 128.5, 127.3, 126.7, 56.7, 46.4, 14.6, 11.4, -2.3.

reactant | (chloro)(dimethyl)(tetramethylcyclopentadienyl)silane | 4.651 mmol, 1.000 g | Cl[Si](C1(C(=C(C(=C1)C)C)C)C)(C)C | C11H19ClSi
reactant | lithium benzylamide | 4.651 mmol | C(C1=CC=CC=C1)[NH-].[Li+]
solvent | ether | 70 mL | CCOCC | C4H10O
product | (Benzylamino)dimethyl(tetramethylcyclopentadienyl)silane | C(C1=CC=CC=C1)N[Si](C1(C(=C(C(=C1)C)C)C)C)(C)C | C18H27NSi
